US05091567
190 g (0 82 mole) Ethyl 1-nitromethyl-1-cyclohexaneacetate in 3168 mL ethanol are hydrogenated for 4 hours at 125° C. in the presence of 62.9 g 10% palladium-carbon. At the end of the take up of hydrogen, the catalyst is filtered off and the colorless solution obtained is distilled to dryness in a vacuum. 116.2 g 2-Aza-spiro[4,5]decan-3-one in the form of a colorless crystallizate are obtained; yield 91.6% of theory. Content 97.1% (GC); m.p. 88° to 90° C.

reactant | Ethyl 1-nitromethyl-1-cyclohexaneacetate | 82 mole, 190 g | [N+](=O)([O-])CC1(CCCCC1)CC(=O)OCC | C11H19NO4
solvent | ethanol | 3168 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 62.9 g | [C].[Pd]
product | 2-Aza-spiro[4,5]decan-3-one | 116.2 g, yield 91.6% | C1NC(CC12CCCCC2)=O | C9H15NO
